US07977344B2
6-Amino-2-{[2-(methoxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one
8-(Methoxy)-2-{[2-(methoxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine (0.1434 g) was dissolved in methanol (5 mL) and treated with 4N hydrogen chloride in 1,4-dioxane (2 mL). The reaction mixture was stirred at room temperature for 4 hours. The reaction mixture was evaporated under reduced pressure to give a solid, which was suspended in water (1 mL) and methanol (2-3 mL) before 2N sodium hydroxide was added to neutralise (to pH 7). After evaporating the suspension to near dryness under reduced pressure, the solid was suspended in water (3 mL) and filtered under suction and then washed with a few drops of methanol. This solid was dried to constant weight under vacuo at 50° C. after being initially air-dried under suction. This gave the title compound as a white solid (94 mg).

reactant | 8-(Methoxy)-2-{[2-(methoxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 0.1434 g | COC=1N(C2=NC(=NC(=C2N1)N)OCCOC)CC1CCOCC1 | C15H23N5O4
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | methanol | 2-3 mL | CO | CH4O
product | 6-Amino-2-{[2-(methoxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one | 94 mg | NC1=C2NC(N(C2=NC(=N1)OCCOC)CC1CCOCC1)=O | C14H21N5O4
